US06228877B1
To a mixture of 75 mg (0.193 mmole) of 3-(6-amino-1-methyl-1H-indol-3-yl)-4-(6-fluoro-1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione in 2 mL of acetonitrile was added 10 mL of water, precipitating solids. To this mixture was added 0.64 mL (0.772 mmole) of 1.2M hydrochloric acid, forming a clear solution. After 10 min. the mixture was concentrated to dryness. It was redissolved in acetonitrile and concentrated to dryness. The residue was dissolved in 4 mL of water and lyophilized overnight to give 80 mg (97%) of 3-(6-amino-1-methyl-1H-indol-3-yl)-4-(6-fluoro-1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione hydrochloride salt.

reactant | 3-(6-amino-1-methyl-1H-indol-3-yl)-4-(6-fluoro-1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 0.193 mmole, 75 mg | NC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)F)C)=O)=O | C22H17FN4O2
reactant | water | 10 mL | O | H2O
reactant | hydrochloric acid | 0.772 mmole, 1.2M, 0.64 mL | Cl | ClH
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 3-(6-amino-1-methyl-1H-indol-3-yl)-4-(6-fluoro-1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione hydrochloride salt | 80 mg, 97% | Cl.NC1=CC=C2C(=CN(C2=C1)C)C=1C(NC(C1C1=CN(C2=CC(=CC=C12)F)C)=O)=O | InChI=1S/C22H17FN4O2.ClH/c1-26-9-15(13-5-3-11(23)7-17(13)26)19-20(22(29)25-21(19)28)16-10-27(2)18-8-12(24)4-6-14(16)18;/h3-10H,24H2,1-2H3,(H,25,28,29);1H
